US06930120B2
2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester
Add palladium acetate (8 mg, 0.04 mmol) to a solution of 2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid (0.204 g, 0.36 mmol), thiophene-3-boronic acid (91 mg, 0.71 mmol), triphenylphosphine (19 mg, 0.07 mmol), and potassium fluoride (51 mg, 1.07 mmol) in anhydrous THF (3 mL). Reflux the reaction mixture for 18 h under an atmosphere of nitrogen. Dilute the cooled reaction mixture with ethyl acetate and wash with water and brine. Dry the organic layer over Na2SO4, concentrate in vacuo, and purify by flash column chromatography (9% acetone in hexanes) to provide a mixture of the titled compound and 3-[4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl]-2-methyl-2-phenoxy-propionic acid ethyl ester. 1H NMR (400 MHz, CDCl3): δ 7.53 (d, 1H, J=7.04 Hz), 7.41 (t, 1H, J=7.82 Hz), 7.35-7.13 (m, 6H), 7.08-6.95 (m, 1H), 6.81 (s, 4H), 4.22-4.13 (m, 4H), 3.26 (d, 1H, J=14.08 Hz), 3.14 (d, 1H, J=14.08 Hz), 2.87-2.66 (m, 3H), 2.23 (s, 3H), 2.02 (d, 2H, J=11.23 Hz), 1.80 (m, 10H), 1.21 (t, 3H, J=7.04 Hz). MS [EI+] 568 (M+H)+. Rf=0.14 in 25% acetone in hexanes.

reactant | 2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid | 0.36 mmol, 0.204 g | BrC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2CCCCC2)C)C=CC1 | C28H32BrNO5
reactant | thiophene-3-boronic acid | 0.71 mmol, 91 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | triphenylphosphine | 0.07 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium fluoride | 1.07 mmol, 51 mg | [F-].[K+]
reactant | 3-[4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl]-2-methyl-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(OC1=CC=CC=C1)C)=O | C30H37NO5
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.04 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(C)OC=1C=C(C=CC1)C1=CC=CC=C1)=O | C36H41NO5
